US08623859B2
5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)furan-3-carboxamide
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (53 mg, 0.15 mmol) was dissolved in DMF (1 mL) and HOBt (23 mg, 0.15 mmol) and EDCI (29 mg, 0.15 mmol) were added. The reaction was stirred for 1 h prior to addition of 2,2,6,6-tetramethylpiperidin-4-amine (21 mg, 0.135 mmol). The reaction was stirred for 16 h and then absorbed directly on to Isolute SCX-2 cartridge, washed with MeOH (5 mL) and then eluted with 7 N NH3 in MeOH (5 mL). The solvent was removed under a stream of N2 and the resulting crude product purified using prep method A.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.15 mmol, 53 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | HOBt | 0.15 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.15 mmol, 29 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2,2,6,6-tetramethylpiperidin-4-amine | 0.135 mmol, 21 mg | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)NC1CC(N(C(C1)(C)C)C)(C)C)C | C26H39N3O5S
